US07253192B2
E] rac-6-(4-Trifluoromethoxy-phenyl)-hex-5-yn-2-ol
Within 15 min was dropped 1.46 ml (1.2 M in toluene, 1.75 mmol) of DIBAL-H to a dry ice cooled (−30° C.) solution of 0.23 g (0.88 mmol) 6-(4-trifluoromethoxy-phenyl)-hex-5-yn-2-one in 4 ml of THF. The reaction was warmed up (0° C. for 1 h 10 min) and neutralized with aqueous 10% KHSO4 solution. The mixture was extracted with ether (three times), the organic phases were washed with a aqueous 10% NaCl solution, dried (Na2SO4) and evaporated to give 0.24 g of the title compound as light brown oil.

reactant | DIBAL-H | 1.75 mmol, 1.2 M, 1.46 ml | CC(C)C[AlH]CC(C)C
reactant | dry ice | C(=O)=O | CO2
reactant | 6-(4-trifluoromethoxy-phenyl)-hex-5-yn-2-one | 0.88 mmol, 0.23 g | FC(OC1=CC=C(C=C1)C#CCCC(C)=O)(F)F | C13H11F3O2
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | rac-6-(4-Trifluoromethoxy-phenyl)-hex-5-yn-2-ol | 0.24 g | FC(OC1=CC=C(C=C1)C#CCCC(C)O)(F)F | C13H13F3O2
